US07074801B1
6-Bromo-3-(5-isopropoxy[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine
A mixture consisting of 60 mg crude product of a mixture of 6-bromo-3-(5-methanesulfinyl[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine and 6-bromo-3-(5-methylsulfonyl[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine obtained in the synthesis process in Production Example 280, 2 mL isopropyl alcohol, 0.3 mL triethylamine and 3 mL anhydrous tetrahydrofuran was heated overnight under reflux. An aqueous saturated ammonium chloride solution, ethyl acetate and water were added to the reaction solution, and the organic layer was separated, washed with brine and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was evaporated. The resulting residue was purified by NH silica gel column chromatography (ethyl acetate/hexane) to give 33 mg of the title compound as a white solid.

reactant | 6-bromo-3-(5-methanesulfinyl[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C=2OC(=NN2)S(=O)C | C10H7BrN4O2S
reactant | 6-bromo-3-(5-methylsulfonyl[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C=2OC(=NN2)S(=O)(=O)C | C10H7BrN4O3S
reactant | isopropyl alcohol | 2 mL | C(C)(C)O | C3H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 6-Bromo-3-(5-isopropoxy[1,3,4]oxadiazol-2-yl)imidazo[1,2-a]pyridine | 33 mg | BrC=1C=CC=2N(C1)C(=CN2)C=2OC(=NN2)OC(C)C | C12H11BrN4O2
